US07622464B2
Description 48: 5-[(2,2,2-Trifluoro-acetylamino)methyl]furan-3-carboxylic acid methylamide
To a suspension of N-methyl-3-furancaboxamide (0.404 g) (prepared as described in Synthetic Communications (1992), 22(16), 2381-92) in concentrated aqueous sulphuric acid (10 ml) at 0-5° C. was added N-(hydroxymethyl)-trifluoroacetamide (0.483 g). The suspension was allowed to warm to 20° C. and stirred for 1 h. The mixture was poured onto ice (100 g) and diluted with ethyl acetate (150 ml). The phases were separated and the organic phase washed with saturated sodium hydrogen carbonate (50 ml×2), brine (30 ml), dried (MgSO4) and filtered. The solvent was removed in vacuo to give a yellow solid. The residue was purified by silica SPE (10 g) eluting with 4:1 to 1:3 cyclohexane:ethyl acetate to give the title compound as a white solid (0.286 g).

reactant | N-methyl-3-furancaboxamide | 0.404 g | CNC(=O)C1=COC=C1 | C6H7NO2
reactant | N-(hydroxymethyl)-trifluoroacetamide | 0.483 g | OCNC(C(F)(F)F)=O | C3H4F3NO2
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5-[(2,2,2-Trifluoro-acetylamino)methyl]furan-3-carboxylic acid methylamide | 0.286 g | CNC(=O)C1=COC(=C1)CNC(C(F)(F)F)=O | C9H9F3N2O3
